US06307047B1
3-Fluoro-4-(methylthio)benzeneboronic acid
A solution of 4-bromo-2-fluorothioanisole (0.5 g, 22.6 mmol) in dry THF (20 mL) was chilled to −78° C. under a nitrogen atmosphere. The reaction mixture was treated with 1.6 M n-butyllithium in hexanes (1.7 mL, 27.1 mmol), and the mixture was warmed to −40° C. where it was maintained for 0.5 hours. The reaction mixture was then chilled to −78° C. and three equivalents of triisopropyl borate (1.56 mL, 67.8 mmol) were added. The reaction mixture was allowed to warm to room temperature and stirred for 1.5 hours. At this point, 10% aqueous KOH (200 mL, 360 mmol) was added and the mixture was stirred overnight at room temperature. The reaction mixture was then poured into an ice/concentrated HCl mixture with stirring to yield a white precipitate. This solid was dried in a vacuum oven (65° C., 29 in Hg) overnight to provide the title compound (yield: 0.22 g; 52.4%). 1H NMR (300 MHz, DMSO-d6) δ 2.48 (s, 3H), 7.31 (t, J=9 Hz, 1H), 7.49 (dd, J=12 Hz, 1.5 Hz, 1H) 7.54 (dd, J=9 Hz, 1.5 Hz, 1H).

reactant | 4-bromo-2-fluorothioanisole | 22.6 mmol, 0.5 g | BrC1=CC(=C(C=C1)SC)F | C7H6BrFS
reactant | n-butyllithium | 1.6 M | C(CCC)[Li]
reactant | triisopropyl borate | 67.8 mmol, 1.56 mL, three equivalents | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | KOH | 360 mmol, 200 mL | [OH-].[K+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-Fluoro-4-(methylthio)benzeneboronic acid | yield: 0.22 g, 52.4% | FC=1C=C(C=CC1SC)B(O)O | C7H8BFO2S
